US08003670B2
Preparation of 1-[3′-(1-Methylpiperidin-4-yl oxy)benzenesulfonyl]-1H-indole
1-(3′-Hydroxybenzenesulfonyl) indole, (0.36 mmol, 0.1 grams) (obtained from preparation 1), was dissolved in dimethyl sulfoxide (2 mL). Potassium carbonate (0.074 grams) was added and the resulting reaction mixture was stirred 40-45° C. for a period of one hour. In another round bottom flask, 4-chloro-N-methylpiperidine (0.54 mmol, 0.072 grams) was dissolved in dimethyl sulfoxide (1.5 mL). The content of the first flask were added to the second flask at 40-45° C. The resulting reaction mass was further heated to 140-145° C. and maintained there for a period of 5 hours while monitoring the reaction by thin layer chromatography. Cooled the reaction mass to room temperature, poured it onto water (25 mL) and extracted the product with ethyl acetate (30 mL×3). Combined organic extracts were dried over sodium sulfate and the volatiles were removed under the reduced pressure to obtain 0.110 grams crude compound. The compound was purified by column chromatography using silica gel (100-200 mesh), eluent being ethyl acetate and 1% triethylamine to obtain 50 mg of pure compound.

reactant | 1-(3′-Hydroxybenzenesulfonyl) indole | 0.36 mmol, 0.1 grams | OC=1C=C(C=CC1)S(=O)(=O)N1C=CC2=CC=CC=C12 | C14H11NO3S
reactant | Potassium carbonate | 0.074 grams | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chloro-N-methylpiperidine | 0.54 mmol, 0.072 grams | ClC1CCN(CC1)C | C6H12ClN
solvent | dimethyl sulfoxide | 2 mL | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 1.5 mL | CS(=O)C | C2H6OS
product | 1-[3′-(1-Methylpiperidin-4-yl oxy)benzenesulfonyl]-1H-indole | 50 mg | CN1CCC(CC1)OC=1C=C(C=CC1)S(=O)(=O)N1C=CC2=CC=CC=C12 | C20H22N2O3S
